US07820670B2
Step A: 2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 2-aminobutan-1-ol according to general procedure 1 providing the amino compound (70 mg, 18%) as yellow solid: Rf=0.53 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CDCl3) δ 7.59 (d, J=9.5 Hz, 1H), 7.48 (s, 1H), 6.45 (d, J=9.5 Hz, 1H), 4.51 (d, J=6.3 Hz, 1H), 3.97-3.90 (m, 2H), 3.75-3.72 (m, 1H), 2.65 (br, 1H), 1.76-1.64 (m, 2H), 1.04 (t, 3H); ES-MS: (M+H)=285, 287 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 2-aminobutan-1-ol | NC(CO)CC | C4H11NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 2-(3-Bromoimidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol | BrC1=CN=C2N1N=C(C=C2)NC(CO)CC | C10H13BrN4O
